US06531491B1
A solution of thionyl chloride (0.87 mL, 12.0 mmol, 3.0 eq) in chloroform (8 mL) was cooled to 0° C. and treated with a solution of [1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol (0.92 g, 4.0 mmol, 1.0 eq) in chloroform (2 mL). The clear solution was stirred at 0° C. for 30 minutes and then at room temperature for 2 hours. The solvent was removed and the product was sequentially slurried and concentrated using chloroform, toluene and cyclohexane to give 2-chloromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole hydrochloride as a beige solid (1.1 g, 97%): 1H NMR (300 MHz, DMSO-d6) δ 7.85 (d, 1H, J=1.9 Hz), 7.70 (d, 1H, J=1.9 Hz), 5.62 (s, 2H), 5.14 (s, 2H), 3.57 (t, 2H, J=8.3 Hz), 0.90 (t, 2H, J=8.3 Hz), −0.02 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ 142.1, 123.2, 120.2, 76.5, 66.8, 31.7, 17.3, −1.4.

reactant | thionyl chloride | 12.0 mmol, 0.87 mL, 3.0 eq | S(=O)(Cl)Cl | Cl2OS
reactant | [1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol | 4.0 mmol, 0.92 g, 1.0 eq | C[Si](CCOCN1C(=NC=C1)CO)(C)C | C10H20N2O2Si
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole hydrochloride | 1.1 g, 97% | Cl.ClCC=1N(C=CN1)COCC[Si](C)(C)C | InChI=1S/C10H19ClN2OSi.ClH/c1-15(2,3)7-6-14-9-13-5-4-12-10(13)8-11;/h4-5H,6-9H2,1-3H3;1H
